US05998436
Synthesis of ethyl 1-(6-t-butylamino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-5-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 10 ml of chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluoro-6-nitrobenzoyl)acrylate prepared from 3.25 g of ethyl 3-chloro-2,4,5-trifluoro-6-nitrobenzoylacetate by normal process was added 2.14 g of 2-amino-3,5-difluoro-6-t-butylaminopyridine. The solution was concentrated under reduced pressure, and to the residue were added 2.7 g of anhydrous potassium carbonate and 10 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 5 minutes and allowed to cool. The solution was separated by adding 100 ml of chloroform and 500 ml of 2% aqueous solution of citric acid, and the chloroform layer was washed twice with 500 ml of 2% aqueous solution of citric acid, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The precipitate was dispersed in ethanol, collected by filtration, washed with ethanol and diisopropylether successively to obtain 3.13 g of the title compound as a pale yellow powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluoro-6-nitrobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)Cl)F)=O | C14H11ClF3NO6
reactant | ethyl 3-chloro-2,4,5-trifluoro-6-nitrobenzoylacetate | 3.25 g | ClC=1C(=C(C(=O)CC(=O)OCC)C(=C(C1F)F)[N+](=O)[O-])F | C11H7ClF3NO5
reactant | 2-amino-3,5-difluoro-6-t-butylaminopyridine | 2.14 g | NC1=NC(=C(C=C1F)F)NC(C)(C)C | C9H13F2N3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-(6-t-butylamino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-5-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.13 g | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=C(C(=C(C(=C12)Cl)F)F)[N+](=O)[O-])=O)C(=O)OCC)F)F | C21H17ClF4N4O5
